US07608639B2
3-{2-Methyl-4-[3-methyl-5-(2-phenoxy-3-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid
2-Phenoxy-3-trifluoromethyl-phenol is reacted with 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester as in Example 18 to afford 0.125 g (17%) of the title compound. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C30H25O5F3 522, found 523 (M+1, 100%).

reactant | 2-Phenoxy-3-trifluoromethyl-phenol | O(C1=CC=CC=C1)C1=C(C=CC=C1C(F)(F)F)O | C13H9F3O2
reactant | 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)Br)C)=O | C18H19BrO3
product | 3-{2-Methyl-4-[3-methyl-5-(2-phenoxy-3-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid | 0.125 g, 17% | CC1=C(C=CC(=C1)OC1=CC(=CC(=C1)OC1=C(C(=CC=C1)C(F)(F)F)OC1=CC=CC=C1)C)CCC(=O)O | C30H25F3O5
